US08389524B2
(2R)-2-({4-[(3,4-Dihydro-2H-pyrano[2,3-c]pyridin-6-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione hydrochloride
A suspension of (2R)-2-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione (for a preparation see Example 16A(j)) (60 mg, 0.199 mmol) and 3,4-dihydro-2H-pyrano[2,3-c]pyridine-6-carbaldehyde (for a synthesis see WO2004058144, Example 126(e)) (29.2 mg, 0.179 mmol) in chloroform (2 ml) and methanol (0.061 ml) at rt under nitrogen was treated with sodium triacetoxyborohydride (127 mg, 0.597 mmol) and stirred at rt for 30 min. The reaction was then treated with saturated aqueous NaHCO3 (10 ml) and extracted with 20% methanol/DCM (3×20 ml). The combined organic extracts were dried (MgSO4), filtered, evaporated and purified using silica chromatography (0-20% MeOH/DCM) to give the free base of the title compound as a light brown solid

reactant | (2R)-2-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione | NC1CCN(CC1)C[C@@H]1CN2C(C=CC=3N=CC(N1C23)=O)=O | C15H19N5O2
reactant | 3,4-dihydro-2H-pyrano[2,3-c]pyridine-6-carbaldehyde | O1CCCC=2C1=CN=C(C2)C=O | C9H9NO2
reactant | sodium triacetoxyborohydride | 0.597 mmol, 127 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 10 ml | C(=O)(O)[O-].[Na+]
reactant | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 0.061 ml | CO | CH4O
product | (2R)-2-({4-[(3,4-Dihydro-2H-pyrano[2,3-c]pyridin-6-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione hydrochloride | Cl.O1CCCC=2C1=CN=C(C2)CNC2CCN(CC2)C[C@@H]2CN1C(C=CC=3N=CC(N2C13)=O)=O | InChI=1S/C24H28N6O3.ClH/c31-22-4-3-20-24-29(22)15-19(30(24)23(32)13-27-20)14-28-7-5-17(6-8-28)25-11-18-10-16-2-1-9-33-21(16)12-26-18;/h3-4,10,12-13,17,19,25H,1-2,5-9,11,14-15H2;1H/t19-;/m1./s1
